US07659305B2
(2S,4S)-4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester
To a solution of pyrrolidine-1,2,4-tricarboxylic acid 1,2-di-tert-butyl ester (Preparation 44, 501 mg, 1.59 mmol) in anhydrous tetrahydrofuran (10 ml) at 0° C. under a nitrogen atmosphere was added borane-tetrahydrofuran complex (1M in tetrahydrofuran, 3.16 ml, 3.18 mmol) dropwise and allowed to stir to room temperature over 18 hours. The solvent was removed under reduced pressure and the residue dissolved in ethyl acetate (10 ml) and washed with 1M hydrochloric acid (10 ml), saturated sodium hydrogen carbonate (10 ml) and then dried (MgSO4), filtered and evaporated under reduced presssure to give the title compound as a colourless gum (single diastereonier 132 mg, 27%)

reactant | pyrrolidine-1,2,4-tricarboxylic acid 1,2-di-tert-butyl ester | 1.59 mmol, 501 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)C(=O)O)C(=O)OC(C)(C)C | C15H25NO6
reactant | borane tetrahydrofuran | 3.18 mmol, 1M, 3.16 ml | B.O1CCCC1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2S,4S)-4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester | 132 mg, 27% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)CO)C(=O)OC(C)(C)C | C15H27NO5
